US08609692B2
1-(2-hydroxy-4-(trifluoromethoxy)phenyl)ethanone
A solution of 1-(2-methoxy-4-(trifluoromethoxy)phenyl)ethanone (17.8 g, 76.0 mmol) in CH2Cl2 (178 mL) was cooled to −25° C. and boron trichloride (91.0 mL of a 1.0 M solution in CH2Cl2, 91 mmol) was added dropwise keeping the internal temperature ≦−18° C. Following addition, analysis by LCMS indicated complete reaction. The reaction mixture was poured into ice (75 g) and partitioned. The organic layer was washed with water (50 mL), dried (Na2SO4), filtered, and concentrated to give 16.2 g (73.6 mmol, 97% yield) of the title compound. MS (DCI/NH3) m/z 238 (M+NH4)+.

reactant | 1-(2-methoxy-4-(trifluoromethoxy)phenyl)ethanone | 76.0 mmol, 17.8 g | COC1=C(C=CC(=C1)OC(F)(F)F)C(C)=O | C10H9F3O3
reactant | boron trichloride | B(Cl)(Cl)Cl | BCl3
solvent | CH2Cl2 | 178 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-hydroxy-4-(trifluoromethoxy)phenyl)ethanone | 73.6 mmol, 16.2 g, 97% yield | OC1=C(C=CC(=C1)OC(F)(F)F)C(C)=O | C9H7F3O3
